US04186142
Methylβ-(m-methoxyphenyl)-β-hydroxy-propionate was reacted with methyl iodide/sodium hydride to give methyl-β-(m-methoxyphenyl)-β-methoxy-propionate, which was then reduced with LiAlH4 in dry ether to give 3-(m-methoxyphenyl)-3-methoxy-propanol. This latter product was converted into 3-(m-methoxyphenyl)-3-methoxy-propanal by oxidation with pyridinium chlorochromate in dry dichloromethane.

reactant | Methylβ-(m-methoxyphenyl)-β-hydroxy-propionate | COC(CC(O)C1=CC(=CC=C1)OC)=O | C11H14O4
reactant | methyl iodide sodium hydride | CI.[H-].[Na+]
product | methyl-β-(m-methoxyphenyl)-β-methoxy-propionate | COC(CC(OC)C1=CC(=CC=C1)OC)=O | C12H16O4
